US07176306B2
2,4-Dibromo-6-methyl-3-nitropyridine (1.0 g, 3.38 mmol) was dissolved in a mixture of methanol (4 mL) and tetrahydrofuran (6 mL), and a solution of sodium hydrosulfite (3.0 g, 17.23 mmol) in water (7 mL) was added thereto over 5 minutes with stirring at 65° C. Subsequently, the mixture was stirred for 30 minutes at 65° C. To the mixture, a solution of sodium hydrosulfite (3.0 g, 17.23 mmol) in water (7 mL) was further added over 5 minutes, and the mixture was stirred for 30 minutes at 65° C. The resultant mixture was allowed to cool, diluted with water, and then the mixture was extracted with chloroform. The organic layer was washed with saturated brine, followed by drying over sodium sulfate anhydrate and concentrating under reduced pressure, to thereby yield 0.89 g of 3-amino-2,4-dibromo-6-methylpyridine as a colorless solid (yield 99%). The product was crystallized from hexane, to thereby obtain colorless crystals.

reactant | 2,4-Dibromo-6-methyl-3-nitropyridine | 3.38 mmol, 1.0 g | BrC1=NC(=CC(=C1[N+](=O)[O-])Br)C | C6H4Br2N2O2
reactant | sodium hydrosulfite | 17.23 mmol, 3.0 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium hydrosulfite | 17.23 mmol, 3.0 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | methanol | 4 mL | CO | CH4O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | water | 7 mL | O | H2O
solvent | water | 7 mL | O | H2O
product | 3-amino-2,4-dibromo-6-methylpyridine | yield 0.89 g, yield 99% | NC=1C(=NC(=CC1Br)C)Br | C6H6Br2N2
